US04229467
3-Methyl-6-tetradecyloxy-benzofuran-2-carboxylic acid, methyl ester
0.4 g (1.03 mmoles) of 3-methyl-6-tetradecyloxy-benzofuran-2-carboxylic acid and 0.3 g (2.00 mmoles) of 1-methyl-3-p-tolyltriazine are stirred in ether and refluxed for 15 minutes. The mixture is then allowed to stand at room temperature for 1 hour. It is then refluxed for 15 minutes. The reaction mixture is worked-up by extraction with diethyl ether and HCl. The ether is distilled off and is replaced by dioxane. The resultant mixture is heated on a steam bath for 1 hour. It is then extracted with diethyl ether/HCl, H2O and NaHCO3 (aq.). The extract is evaporated and the ether replaced with methanol. The methyl ester of 3-methyl-6-tetradecyloxy-benzofuran-2-carboxylic acid is allowed to crystallize from the mixture.

reactant | 3-methyl-6-tetradecyloxy-benzofuran-2-carboxylic acid | 1.03 mmoles, 0.4 g | CC1=C(OC2=C1C=CC(=C2)OCCCCCCCCCCCCCC)C(=O)O | C24H36O4
reactant | 1-methyl-3-p-tolyltriazine | 2.00 mmoles, 0.3 g | CN1NN(CC=C1)C1=CC=C(C=C1)C | C11H15N3
solvent | ether | CCOCC | C4H10O
product | 3-Methyl-6-tetradecyloxy-benzofuran-2-carboxylic acid, methyl ester | CC1=C(OC2=C1C=CC(=C2)OCCCCCCCCCCCCCC)C(=O)OC | C25H38O4
